US07396844B1
Synthesis of 3-[2-(2-naphthalenesulfonylamino)ethoxy]benzonitrile
163 mg of 3-(2-aminoethoxy)benzonitrile and 0.5 ml of diisopropylethylamine were dissolved in 10 ml of dimethylformamide. A solution of 250 mg (1.1 mmol) of 2-naphthalenesulfonyl chloride in dimethylformamide was added to the obtained solution under cooling with ice, and they were stirred under cooling with ice for 2 hours. The title compound was obtained by the same isolation process as that of step 1 in Example 1 with ethyl acetate as the extractant.

reactant | 3-(2-aminoethoxy)benzonitrile | 163 mg | NCCOC=1C=C(C#N)C=CC1 | C9H10N2O
reactant | diisopropylethylamine | 0.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-naphthalenesulfonyl chloride | 1.1 mmol, 250 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(2-naphthalenesulfonylamino)ethoxy]benzonitrile | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCCOC=1C=C(C#N)C=CC1 | C19H16N2O3S
